US04387238
To a suspension of monophenyl potassium epoxysuccinate (1.23 g) in ethyl ether (30 ml), oxalyl chloride (0.7 g) in ethyl ether was added dropwise with stirring under ice-cooling and the mixture was stirred for an hour at room temperature. To the reaction mixture, a solution of methylamine hydrochloride (0.5 g) and triethylamine (1.5 g) in ethyl ether was added dropwise with stirring under ice-cooling, and the mixture was stirred for an additional hour at room temperature. The precipitate produced was filtered off and the filtrate was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated to dryness. The residue was purified by silica gel column chromatography using benzene as a developer to give 0.48 g of phenyl N-methyl-2,3-epoxysuccinamate (Compound No. 84) as colorless oil.

reactant | monophenyl potassium epoxysuccinate | 1.23 g | O1C(C(=O)O)C1C(=O)O.C1(=CC=CC=C1)[K]
reactant | oxalyl chloride | 0.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine hydrochloride | 0.5 g | Cl.CN
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | phenyl N-methyl-2,3-epoxysuccinamate | 0.48 g | CNC(C1C(C(=O)OC2=CC=CC=C2)O1)=O | C11H11NO4
